US04115438
A solution of 3.2 g (13 mmol) of 1-chloro-7-(bicyclo[3.2.1]oct-2-yl)-1E-hepten-3-one and 7.5 g (50 mmol) of sodium iodide in 25 ml of dry acetone (distilled from potassium carbonate) was refluxed for 18 hr under nitrogen. The solvent was removed in vacuo, and the residue was taken up in 50 ml of water and then extracted three times with 30 ml portions of ether. The combined ether extracts were washed with aqueous sodium thiosulfate, dried (MgSO4) and evaporated in vacuo to yield 3.8 g (88%) of 1-iodo-7-(bicyclo[3.2.1]oct-2-yl)-1E-hepten-3-one.

reactant | 1-chloro-7-(bicyclo[3.2.1]oct-2-yl)-1E-hepten-3-one | 13 mmol, 3.2 g | Cl\C=C\C(CCCCC1C2CCC(CC1)C2)=O | C15H23ClO
reactant | sodium iodide | 50 mmol, 7.5 g | [I-].[Na+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 1-iodo-7-(bicyclo[3.2.1]oct-2-yl)-1E-hepten-3-one | 3.8 g, 88% | I\C=C\C(CCCCC1C2CCC(CC1)C2)=O | C15H23IO
